US04595677
380 mg of Z-Sta-Sar-His-Lys(Boc)-OMe in 10 ml of 95% strength MeOH are hydrogenated with CO2 -absorption until saturation after the addition of 100 mg of Pd-on-carbon (10% Pd), the solution is filtered and concentrated to dryness. After drying in a high vacuum, H-Sta-Sar-His-Lys(Boc)-OMe is obtained in the form of an amorphous powder; Rf (G)=0.18; Rf (E)=0.53.

reactant | Z-Sta-Sar-His-Lys(Boc)-OMe | 380 mg | N([C@@H](CC(C)C)[C@@H](O)CC(=O)N(C)CC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C37H57N7O10
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | CO | CH4O
product | H-Sta-Sar-His-Lys(Boc)-OMe | N[C@@H](CC(C)C)[C@@H](O)CC(=O)N(C)CC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C29H51N7O8
